US06194454B1
To a cooled (−78° C.), stirred solution of 2-(3-isopropyl-4-methoxy-phenoxy)-3-methyl-5-nitrobenzonitrile (308 mg) in dichloromethane (5 mL) was added boron tribromide (0.31 mL) dropwise. The reaction was allowed to warm to RT and stirred for 1 h, quenched with water and stirred for 20 min. The reaction was extracted with ethyl acetate, the organic phase washed with water, saturated aqueous brine, dried over sodium sulfate and concentrated in vacuo. Flash chromatography (20% ethyl acetate/hexanes) on silica gel afforded 2-(3-isopropyl-4-hydroxy-phenoxy)-3-methyl-5-nitrobenzonitrile as a yellow oil (215 mg).

reactant | 2-(3-isopropyl-4-methoxy-phenoxy)-3-methyl-5-nitrobenzonitrile | 308 mg | C(C)(C)C=1C=C(OC2=C(C#N)C=C(C=C2C)[N+](=O)[O-])C=CC1OC | C18H18N2O4
reactant | boron tribromide | 0.31 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(3-isopropyl-4-hydroxy-phenoxy)-3-methyl-5-nitrobenzonitrile | 215 mg | C(C)(C)C=1C=C(OC2=C(C#N)C=C(C=C2C)[N+](=O)[O-])C=CC1O | C17H16N2O4
